US04289776
The reaction is performed according to example 15 from 3-(n-butyl)-7-(6'-oxoheptyl)-xanthine and methyl iodide, but at a temperature of the mixture of 50° C. under stirring for 46 hours. Prior to the distillation at a bath temperature of 140° C. and 0.02 mmHg the product is purified by column chromatography at silica gel 60 (Merck) with methylene chloride/acetone (80:2) as eluent. 1-Methyl-3-(n-butyl)-7-(6'-oxoheptyl)-xanthine was obtained as a viscous oil (nD20 1.5280; yield 80.1%, referred to reacted 3-(n-butyl)-7-(6'-oxoheptyl)-xanthine.

reactant | 3-(n-butyl)-7-(6'-oxoheptyl)-xanthine | C(CCC)N1C(NC(C=2N(C=NC12)CCCCCC(C)=O)=O)=O | C16H24N4O3
reactant | methyl iodide | CI | CH3I
product | 1-Methyl-3-(n-butyl)-7-(6'-oxoheptyl)-xanthine | yield 80.1% | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCCC(C)=O)CCCC | C17H26N4O3
